US08022214B2
To a solution of 3-anthracen-9-yl-propionitrile (3.0 g, 13 mmol) in EtOH (140 mL) was added concentrated NH4OH (14 mL) and Raney nickel (14 g), and ammonia gas was bubbled through the mixture at 0° C. for 10 minutes. The suspension was hydrogenated at room temperature for 24 hours. Air was bubbled through the solution and Raney nickel was removed by filtration. The filtrate was concentrated, and the oily residue was dissolved in CH2Cl2, washed with an aqueous solution of Na2CO3 (10%), dried over MgSO4 and concentrated to give 3-anthracen-9-yl-propylamine as a brown oil (2.60 g, 85% yield). 1H NMR (CDCl3) δ 8.35 (1H, s), 8.30 (2H, d), 8.02 (2H, d), 7.54-7.46 (4H, m), 3.68 (2H, t), 2.95 (2H, t), 2.01-1.95 (2H, m) 1.32 (2H, br-s).

reactant | 3-anthracen-9-yl-propionitrile | 13 mmol, 3.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CCC#N | C17H13N
reactant | NH4OH | 14 mL | [NH4+].[OH-]
reactant | ammonia | N | H3N
solvent | EtOH | 140 mL | CCO | C2H6O
catalyst | Raney nickel | 14 g | [Ni] | Ni
product | 3-anthracen-9-yl-propylamine | 2.60 g, 85% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CCCN | C17H17N
